US07022725B2
To a mixture of 3-methyl-5-phenylisoxazole-4-carbaldehyde (4.94 g), ethyl diethylphosphonoacetate (6.53 g) and N,N-dimethylformamide (70 ml) was added sodium hydride (60%, oil, 1.13 g) at 0° C., and the mixture was stirred at room temperature for 3 hr. The reaction mixture was poured into dilute hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and a yellow oil was obtained from a fraction eluted with ethyl acetate-hexane (1:4, volume ratio). A mixture of the obtained yellow oil, 2N hydrochloric acid (50 ml) and acetic acid (50 ml) was refluxed for 3 hr. The reaction mixture was concentrated, and water was added to the residue. The obtained colorless crystals were filtrated to give (E)-3-(3-methyl-5-phenyl-4-isoxazolyl)propenoic acid (4.02 g, yield 93%). The crystals were recrystallized from ethyl acetate-hexane. melting point: 173–174° C.

reactant | 3-methyl-5-phenylisoxazole-4-carbaldehyde | 4.94 g | CC1=NOC(=C1C=O)C1=CC=CC=C1 | C11H9NO2
reactant | ethyl diethylphosphonoacetate | 6.53 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 1.13 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | (E)-3-(3-methyl-5-phenyl-4-isoxazolyl)propenoic acid | 4.02 g, yield 93% | CC1=NOC(=C1/C=C/C(=O)O)C1=CC=CC=C1 | C13H11NO3
